US05486466
A solution of 1.90 g of p-nitrobenzyl (R)-2-[[[2-amino-2-methoxycarbonyl-ethyl]thio]methyl]-3-(tert-butyldimethylsilyloxy)-5-methoxybenzoate and 0.91 g of methyl iodide in 5 ml of acetonitrile was stirred at room temperature for 3 hours. The solution was diluted with ethyl acetate and washed successively with saturated sodium bicarbonate solution and with brine. The organic layer was dried over sodium sulfate, and the solvent was evaporated in vacuo. The residual oil was chromatographed on silica gel using ethyl acetate/hexane (1:1, v/v) as eluent to yield 0.52 g of p-nitrobenzyl (R)-2-[[[2-methoxycarbonyl-2-(methylamino)ethyl]thio]methyl]-3-(tert-butyldimethylsilyloxy)-5-methoxybenzoate as an oil.

reactant | p-nitrobenzyl (R)-2-[[[2-amino-2-methoxycarbonyl-ethyl]thio]methyl]-3-(tert-butyldimethylsilyloxy)-5-methoxybenzoate | 1.90 g | N[C@@H](CSCC1=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C=C1O[Si](C)(C)C(C)(C)C)OC)C(=O)OC | C26H36N2O8SSi
reactant | methyl iodide | 0.91 g | CI | CH3I
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl (R)-2-[[[2-methoxycarbonyl-2-(methylamino)ethyl]thio]methyl]-3-(tert-butyldimethylsilyloxy)-5-methoxybenzoate | 0.52 g | COC(=O)[C@H](CSCC1=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C=C1O[Si](C)(C)C(C)(C)C)OC)NC | C27H38N2O8SSi
